US06090846
b. N2 -(tert-butoxycarbonyl)-N2 -(iminomethoxymethyl)-L-lysine tert-butyl ester hydrochloride
From 1.6 g (4.89 mmol) N2 -(tert-butoxycarbonyl)-N6 -(cyano)-L-lysine tert-butyl ester was prepared 1.5 g (75%) of foamy solid N2 -(tert-butoxycarbonyl)-N6 -(ethoxyiminomethyl)-L-lysine tert-butyl ester hydrochloride by the method described for N2 -(tert-butoxycarbonyl)-N5 -(iminomethoxymethyl)-L-ornithine tert-butyl ester hydrochloride. TLC (methanol:dichloromethane/1:9) Rf=0.36. Mass spectrum (CI) 360 (MH+, 60%).

reactant | N2 (tert-butoxycarbonyl)-N6 -(cyano)-L-lysine tert-butyl ester | 4.89 mmol, 1.6 g | N#N.C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCCCNC#N)=O
reactant | N2 (tert-butoxycarbonyl)-N6 -(ethoxyiminomethyl)-L-lysine tert-butyl ester hydrochloride | N#N.Cl.C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCCCNC=NOCC)=O
reactant | N2 (tert-butoxycarbonyl)-N5 -(iminomethoxymethyl)-L-ornithine tert-butyl ester hydrochloride | N#N.Cl.C(C)(C)(C)OC([C@@H](N)CCCNCOC=NC(=O)OC(C)(C)C)=O
reactant | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N2 (tert-butoxycarbonyl)-N2 -(iminomethoxymethyl)-L-lysine tert-butyl ester hydrochloride | N#N.Cl.C(C)(C)(C)OC([C@@H](NCOC=NC(=O)OC(C)(C)C)CCCCN)=O | InChI=1S/C17H33N3O5.ClH.N2/c1-16(2,3)24-14(21)13(9-7-8-10-18)19-11-23-12-20-15(22)25-17(4,5)6;;1-2/h12-13,19H,7-11,18H2,1-6H3;1H;/t13-;;/m0../s1
